US04283328
A solution of 4.2 g (0.02 mole) of N-carbobenzoxyglycine and 2.2 g (0.022 mole) of N-methylmorpholine in 50 ml of dry toluene was cooled to -5° and 2.8 g (0.02 mole) of isobutyl chloroformate was added thereto. After 1 hour, a solution of 3.3 g (0.02 mole) of DL-phenylalanine in 20 ml of N-sodium hydroxide was added and the mixture was stirred vigorously overnight. The aqueous phase was isolated, extracted with ether and acidified with 4 N Hydrochloric acid to precipitate the product as a colorless oil which crystallized upon cooling. Recrystallization from ethanol-water yielded 5 g (70%) of N-carbobenzoxyglycyl-DL-phenylalanine, mp 158°-160° C., RfA 0.61.

reactant | N-carbobenzoxyglycine | 0.02 mole, 4.2 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | N-methylmorpholine | 0.022 mole, 2.2 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.02 mole, 2.8 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | DL-phenylalanine | 0.02 mole, 3.3 g | NC(CC1=CC=CC=C1)C(=O)O | C9H11NO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-carbobenzoxyglycyl-DL-phenylalanine | 5 g, 70% | C(=O)(OCC1=CC=CC=C1)NCC(=O)NC(CC1=CC=CC=C1)C(=O)O | C19H20N2O5
